US04745222
2-(Dibenzylamino)-4-bromocyclobutanone HBr
2-(Dibenzylamino)cyclobutanone is dissolved in CHCl3 (1 molar conc.) and treated dropwise with one equivalent of bromine dissolved in CHCl3 (1 molar conc.) at 0° C. After stirring the mixture for 30 minutes, evaporate the solution to obtain the desired product of this step.

reactant | 2-(Dibenzylamino)cyclobutanone | C(C1=CC=CC=C1)N(C1C(CC1)=O)CC1=CC=CC=C1 | C18H19NO
reactant | bromine | one equivalent | BrBr | Br2
solvent | CHCl3 | 1 molar | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 1 molar | C(Cl)(Cl)Cl | CHCl3
product | 2-(Dibenzylamino)-4-bromocyclobutanone HBr | Br.C(C1=CC=CC=C1)N(C1C(C(C1)Br)=O)CC1=CC=CC=C1 | InChI=1S/C18H18BrNO.BrH/c19-16-11-17(18(16)21)20(12-14-7-3-1-4-8-14)13-15-9-5-2-6-10-15;/h1-10,16-17H,11-13H2;1H
